US07758932B2
Synthesis of 1-(16-bromohexadecyl)-2-hexyloxybenzene
To 350 mL of dehydrated methylene chloride, 12.8 g (66 mmol) of 2-hexyloxyphenol, 23.3 g (73 mmol) of 16-bromohexadecane-1-ol, and 20.0 g (99 mmol) of tri-n-butylphosphine were added. The resulting mixture was cooled with ice under argon. After 25.0 g (99 mmol) of 1,1′-(azodicarbonyl)dipiperidine was added bit by bit while stirring the mixture, 150 mL of methylene chloride was added. Under argon, the mixture was stirred at ambient temperature for 30 minutes and was refluxed for 6 hours. After being cooled, the reaction solution was put into 100 mL of hexane and was filtered. The filtered liquid was purified by silica-gel column chromatography. As a result, 26.5 g of a transparent liquid was obtained.

reactant | 2-hexyloxyphenol | 66 mmol, 12.8 g | C(CCCCC)OC1=C(C=CC=C1)O | C12H18O2
reactant | 16-bromohexadecane-1-ol | 73 mmol, 23.3 g | BrCCCCCCCCCCCCCCCCO | C16H33BrO
reactant | tri-n-butylphosphine | 99 mmol, 20.0 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 99 mmol, 25.0 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | hexane | 100 mL | CCCCCC | C6H14
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 350 mL | C(Cl)Cl | CH2Cl2
product | 1-(16-bromohexadecyl)-2-hexyloxybenzene | 26.5 g | BrCCCCCCCCCCCCCCCCC1=C(C=CC=C1)OCCCCCC | C28H49BrO
